US06831175B2
5-Bromo-2-fluoro-benzoic acid
A mixture of 5-bromo-2-fluorobenzaldehyde (810 mg; 4.0 mmol), 15% NaOH (aq.) (3 mL), MeOH (5 mL), and 30% H2O2 (5 mL) was stirred at r.t. for 2 hrs., then acidified with 10% HCl (aq.). The resulting white solid was collected, rinsed with water, and dried to give the desired product (670 mg; 77%).

reactant | 5-bromo-2-fluorobenzaldehyde | 4.0 mmol, 810 mg | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | NaOH | 3 mL | [OH-].[Na+]
reactant | H2O2 | 5 mL | OO | H2O2
reactant | HCl | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 5-Bromo-2-fluoro-benzoic acid | 670 mg, 77% | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
